*****************************************************************
* NXP BUK7K25-40E
*
* Polarity N-Channel
* Ratings 40V/2.500000E-002OHMS/27A
*
* Date Created Thu Jul 05 00:08:21 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K25-40E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0117322980654294 TC=0.00342466737425511,2.32649140765028E-05
RBD 9 4 0.00304553672347388 TC=0.00342466737425511,2.32649140765028E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 3.18e-10
RG 1 2 1.77663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	384.054
+ -16	383.838
+ -10	383.197
+ -5	376.245
+ -4	372.625
+ -3	373.875
+ -2	314.091
+ -1	258.334
+ -0.5	228.793
+ -0.2	209.402
+ -0.1	208.862
+ 0	194.92384
+ 0.1	172.40732
+ 0.2	172.16072
+ 0.5	149.68872
+ 1	126.95316
+ 2	110.58356
+ 3	103.08706
+ 4	98.32842
+ 5	94.87641
+ 6	92.21226
+ 8	88.3888
+ 10	85.73129
+ 12	83.71821
+ 15	81.37397
+ 16	80.67286
+ 20	78.37483
+ 25	76.05424



.MODEL MINT NMOS(Vto=3.1644256348957 Kp=1.613525e+001 Nfs=0 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.97049340788363e-13
+ N=1 M=0.58 VJ=0.5 Fc=0.5 Cjo=2.6511932e-10 Tt=1.24e-08)

.ENDS
